US07285558B2
(c) 5-methyl-2-(1-naphthylmethyl)-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
Isonicotinaldehyde (0.87 g) was added to a solution of 1-naphthaldehyde (1-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone (2.0 g) in dimethylformamide (66 ml) and isopropanol (16 ml). Piperidine (0.66 ml) was added followed by glacial acetic acid (0.08 ml). The solution was heated at 120° C. for 16 hours. Reaction cooled to room temperature, solids precipitated was filtered, and dried to give the subtitle compound (1.63 g). Mass: 383.93 (M+H).

reactant | Isonicotinaldehyde | 0.87 g | C(C1=CC=NC=C1)=O | C6H5NO
reactant | 1-naphthaldehyde (1-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone | 2.0 g | CN1C(NC(=CC1=O)NN=CC1=CC=CC2=CC=CC=C12)=O | C16H14N4O2
reactant | Piperidine | 0.66 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.08 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 66 ml | CN(C=O)C | C3H7NO
solvent | isopropanol | 16 ml | C(C)(C)O | C3H8O
product | 5-methyl-2-(1-naphthylmethyl)-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 1.63 g | CN1C(NC=2C(C1=O)=C(N(N2)CC2=CC=CC1=CC=CC=C21)C2=CC=NC=C2)=O | C22H17N5O2
